US07951824B2
Step 1: (5-Bromo-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester
To a solution of 6.46 g (33 mmol) of 5-bromo-4-methyl-thiazol-2-ylamine (CAS [3034-57-9], Kaye & al., J. C. S. Perkin I, 2338 (1981) in 80 ml of dry dichloromethane were added 8.03 g (37 mmol) of di-tert-butyldicarbonate and 0.21 g (2.1 mmol) of 4-dimethylamino-pyridine (DMAP). The reaction was stirred for 20 h at room temperature. After standard workup and purification by flash chromatography (ethyl acetate/heptane 1:2), one obtains the title compound (6.45 g, 64%) as a light brown solid, MS (ISP): m/e=236.9, 238.9 (M+H)+.

reactant | 5-bromo-4-methyl-thiazol-2-ylamine | 33 mmol, 6.46 g | BrC1=C(N=C(S1)N)C | C4H5BrN2S
reactant | di-tert-butyldicarbonate | 37 mmol, 8.03 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 2.1 mmol, 0.21 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (5-Bromo-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 6.45 g, 64% | C(C)(C)(C)OC(NC=1SC(=C(N1)C)Br)=O | C9H13BrN2O2S
